US08461348B2
To a solution of ethyl 3-(trifluoromethyl)-1H-pyrazole-4-carboxylate (6.24 g, 30.0 mmol) in N,N-dimethylformamide (60 ml) was added under ice-cooling 60% sodium hydride (1.80 g, 45.0 mmol) by a small amount and the mixture was stirred for 30 min. tert-Butyl bromoacetate (5.32 mL, 36.0 mmol) was added to the reaction mixture under ice-cooling, and the mixture was stirred at room temperature for 4 hr. The reaction mixture was diluted with water, extracted with ethyl acetate, washed successively with water and saturated brine, dried over sodium sulfate, and concentrated under reduced pressure. The residue was purified by column chromatography (carrier: silica gel, eluent: hexane-ethyl acetate) to give tert-butyl [4-(ethoxycarbonyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetate (7.33 g, 75%) as a colorless oil. Trifluoroacetic acid (30 mL) was added to the present compound (3.22 g, 10.0 mmol), and the mixture was stirred under ice-cooling for 2.5 hr. The reaction mixture was concentrated under reduced pressure, and the residue was recrystallized from ethyl acetate-hexane to give the title compound (2.03 g, 76%) as colorless crystals.

reactant | ethyl 3-(trifluoromethyl)-1H-pyrazole-4-carboxylate | 30.0 mmol, 6.24 g | FC(C1=NNC=C1C(=O)OCC)(F)F | C7H7F3N2O2
reactant | sodium hydride | 45.0 mmol, 1.80 g | [H-].[Na+]
reactant | tert-Butyl bromoacetate | 36.0 mmol, 5.32 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | tert-butyl [4-(ethoxycarbonyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl]acetate | 7.33 g, 75% | C(C)OC(=O)C=1C(=NN(C1)CC(=O)OC(C)(C)C)C(F)(F)F | C13H17F3N2O4
